US07402698B2
A solution of tert-butyl 4-[(3-bromophenyl)(1-hydroxycyclohexyl)acetyl]piperazine-1-carboxylate (2.12 g, 4.40 mmol) in dry tetrahydrofuran (10 mL) under nitrogen was treated dropwise with a solution of borane (1.0 M in tetrahydrofuran, 13.2 mL, 13.2 mmol). The resulting solution was heated at 70° C. for 2 h, after which time the reaction was cooled in an ice bath, treated dropwise with methanol (15 mL) and concentrated. The resulting viscous, colorless oil was re-dissolved in ethyl acetate (25 mL), washed with a saturated aqueous solution of sodium bicarbonate, water, brine, dried over sodium sulfate, filtered, and concentrated to give a white solid, which was purified via flash column chromatography (silica, gradient from 10% ethyl acetate/hexane to 20% ethyl acetate/hexane) to yield 2.02 g (98%) tert-butyl 4-[2-(3-bromophenyl)-2-(1-hydroxycyclohexyl)ethyl]piperazine-1-carboxylate as a white powder. MS (ESI) m/z 467/469 ([M+H]+); HRMS: calcd for C23H35BrN2O3, 466.1831; found (ESI), 467.1899; Anal. Calcd for C23H35BrN2O3: C, 59.10; H, 7.55; N, 5.99. Found: C, 59.14; H, 7.72; N, 5.77.

reactant | tert-butyl 4-[(3-bromophenyl)(1-hydroxycyclohexyl)acetyl]piperazine-1-carboxylate | 4.40 mmol, 2.12 g | BrC=1C=C(C=CC1)C(C(=O)N1CCN(CC1)C(=O)OC(C)(C)C)C1(CCCCC1)O | C23H33BrN2O4
reactant | borane | 13.2 mmol, 1.0 M, 13.2 mL | B | BH3
reactant | methanol | 15 mL | CO | CH4O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | tert-butyl 4-[2-(3-bromophenyl)-2-(1-hydroxycyclohexyl)ethyl]piperazine-1-carboxylate | 2.02 g, 98% | BrC=1C=C(C=CC1)C(CN1CCN(CC1)C(=O)OC(C)(C)C)C1(CCCCC1)O | C23H35BrN2O3
